US09428499B2
To a stirred solution of 2-methyl-2-(3-nitrophenyl)propanamide (0.9 g, 4.32 mmol) in methanol was added Pd—C (10%, 0.23 g) followed by slow addition of triethylsilane (6.90 ml, 43.2 mmol) at RT. Reaction was stirred at same temperature for 25 min. The reaction mixture was filtered through celite bed and washed with methanol (50 ml). Filtrate was collected and concentrated under vacuum to obtain 2-(3-aminophenyl)-2-methylpropanamide (0.611 g).

reactant | 2-methyl-2-(3-nitrophenyl)propanamide | 4.32 mmol, 0.9 g | CC(C(=O)N)(C)C1=CC(=CC=C1)[N+](=O)[O-] | C10H12N2O3
reactant | triethylsilane | 43.2 mmol, 6.90 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | methanol | CO | CH4O
catalyst | Pd—C | 0.23 g | [Pd] | Pd
product | 2-(3-aminophenyl)-2-methylpropanamide | 0.611 g | NC=1C=C(C=CC1)C(C(=O)N)(C)C | C10H14N2O
